US08445530B2
2-[(5-Bromo-6-methoxy-pyridine-3-carbonyl)-amino]-indane-2-carboxylic acid methyl ester
5-Bromo-6-methoxy-nicotinic acid methyl ester (W. J. Thompson and J. Gaudino, J. Org. Chem. 49 (1984), 5237-5243) (2.00 g, 8.13 mmol) was hydrolyzed in analogy to example 2. The obtained acid was reacted with 2-amino-indane-2-carboxylic acid methyl ester hydrochloride in analogy to step 2 of example 13.

reactant | 5-Bromo-6-methoxy-nicotinic acid methyl ester | 8.13 mmol, 2.00 g | COC(C1=CN=C(C(=C1)Br)OC)=O | C8H8BrNO3
reactant | 2-amino-indane-2-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1(CC2=CC=CC=C2C1)N
product | 2-[(5-Bromo-6-methoxy-pyridine-3-carbonyl)-amino]-indane-2-carboxylic acid methyl ester | COC(=O)C1(CC2=CC=CC=C2C1)NC(=O)C=1C=NC(=C(C1)Br)OC | C18H17BrN2O4
